US04409214
To a suspension of benzhydryl 7-[2-(5-tritylamino-1,3,4-thiadiazol-2-yl)acetamido]-3-vinyl-3-cephem-4-carboxylate (2.6 g) in methylene chloride (30 ml) and anisole (2.1 g) was added trifluoroacetic acid (7.6 g) under ice-cooling, followed by stirring at ambient temperature for 1.5 hours. The reaction mixture was poured into diisopropyl ether (300 ml), and the precipitates were collected by filtration and suspended in water (40 ml). After adjusting to pH 7 with 10% aqueous sodium hydroxide, the aqueous solution was washed with ethyl acetate and then adjusted to pH 5 with 10% hydrochloric acid. The organic solvent included in the resultant aqueous solution was completely removed by evaporation, and the resultant aqueous solution was adjusted to pH 4 with dilute acetic acid, which was chromatographed on a non-ionic adsorption resin "Diaion HP-20" (50 ml). After washing with water, elution was carried out with 30% isopropyl alcohol, and the fractions containing a desired compound were collected and then concentrated under reduced pressure. The concentrate was lyophilized to obtain 7-[2-(5-amino-1,3,4-thiadiazol-2-yl)-acetamido]-3-vinyl-3-cephem-4-carboxylic acid (0.31 g).

reactant | benzhydryl 7-[2-(5-tritylamino-1,3,4-thiadiazol-2-yl)acetamido]-3-vinyl-3-cephem-4-carboxylate | 2.6 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC1=NN=C(S1)CC(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C45H37N5O4S2
reactant | anisole | 2.1 g | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 7.6 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | diisopropyl ether | 300 ml | C(C)(C)OC(C)C | C6H14O
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 7-[2-(5-amino-1,3,4-thiadiazol-2-yl)-acetamido]-3-vinyl-3-cephem-4-carboxylic acid | 0.31 g | NC1=NN=C(S1)CC(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)O)C1=O | C13H13N5O4S2
